US06809097B1
A solution of 6-methoxy-7-(2-methoxyethoxy)-1,4-dihydroquinolin-4-one (500 mg, 2 mmol) in thionyl chloride (10 ml) and DMF (3 drops) was heated at reflux for 1 hour. Excess thionyl chloride was removed by evaporation and the residue azeotroped with toluene and then triturated with ether. The solid was collected by filtration and dried under vacuum to give 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinoline hydrochloride (590 mg, 95%).

reactant | 6-methoxy-7-(2-methoxyethoxy)-1,4-dihydroquinolin-4-one | 2 mmol, 500 mg | COC=1C=C2C(C=CNC2=CC1OCCOC)=O | C13H15NO4
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
product | 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinoline hydrochloride | 590 mg, 95% | Cl.ClC1=CC=NC2=CC(=C(C=C12)OC)OCCOC | InChI=1S/C13H14ClNO3.ClH/c1-16-5-6-18-13-8-11-9(7-12(13)17-2)10(14)3-4-15-11;/h3-4,7-8H,5-6H2,1-2H3;1H
